US04507299
B. 5-Chloro-6-methoxycarbonylmethylthio-3-[(n-propylimino)methyl]pyrazineamin
Following the procedures described above in Example 6, Step B, but employing instead 2-amino-5-chloro-3-formyl-6-(methoxycarbonylmethylthio)pyrazine (100 mg; 0.382 mMol) prepared in Step A, and n-propylamine (27 mg; 0.382 mMol and 20% excess), the title compound was prepared (80 mg). Elemental Analysis for C11H15N4O2ClS:

reactant | 2-amino-5-chloro-3-formyl-6-(methoxycarbonylmethylthio)pyrazine | 0.382 mMol, 100 mg | NC1=NC(=C(N=C1C=O)Cl)SCC(=O)OC | C8H8ClN3O3S
reactant | n-propylamine | 0.382 mMol, 27 mg | C(CC)N | C3H9N
product | 5-Chloro-6-methoxycarbonylmethylthio-3-[(n-propylimino)methyl]pyrazineamin | ClC=1N=C(C(=NC1SCC(=O)OC)N)C=NCCC | C11H15ClN4O2S
